US07704995B2
To a solution of of 3-amino-6-[3-(hydroxymethyl)phenyl]pyrazine-2-carbonitrile (250 mg, 1.11 mmol) was added 2-aminoisonicotinic acid hydrazide (311 mg, 2.04 mmol). After being heated at 180° C. for 90 min, the reaction mixture was dissolved in DMF and washed with water, ethyl acetate (10 mL×3). The aqueous phase was extracted once with additional ethyl acetate. The combined organic layers were washed with saturated aqueous sodium chloride then dried over anhydrous magnesium sulfate. Filtration and concentration in vacuo gave a crude oil, which was purified by preparative HPLC to yield (3-{5-amino-6-[3-(2-aminopyridin-4-yl)-1H-1,2,4-triazol-5-yl]pyrazin-2-yl}phenyl)methanol (23.2 mg, 5.7% yield): 1H NMR (400 MHz, DMSO-d6): δ 8.80 (s, 1H), 8.15 (s, 1H), 8.10 (m, 1H), 7.70 (m, 2H), 7.43 (m, 2H), 7.20 (m, 1H), 6.10 (s, 2H), 5.25 (m, 1H) 4.60 (m, 1H); MS (EI) for C18H16N8O: 361.11 (MH+).

reactant | 3-amino-6-[3-(hydroxymethyl)phenyl]pyrazine-2-carbonitrile | 1.11 mmol, 250 mg | NC=1C(=NC(=CN1)C1=CC(=CC=C1)CO)C#N | C12H10N4O
reactant | 2-aminoisonicotinic acid hydrazide | 2.04 mmol, 311 mg | NC=1C=C(C(=O)NN)C=CN1 | C6H8N4O
solvent | DMF | CN(C)C=O | C3H7NO
product | (3-{5-amino-6-[3-(2-aminopyridin-4-yl)-1H-1,2,4-triazol-5-yl]pyrazin-2-yl}phenyl)methanol | 23.2 mg, 5.7% yield | NC=1N=CC(=NC1C1=NC(=NN1)C1=CC(=NC=C1)N)C=1C=C(C=CC1)CO | C18H16N8O
